US05594023
A) Benzyl 4-[[5-chloro-3-(2-chlorophenyl)-2,3-dihydro-3-(methylamino)-2-oxoindol-1-yl]sulfonyl]-3-methoxybenzoate
This compound is prepared according to the procedure described in step A of EXAMPLE 28 from 6 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(methylamino)indol-2-one and 6.66 g of benzyl 4-chlorosulfonyl-3-methoxybenzoate. 10.3 g of the expected product are obtained after crystallization from iso ether.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(methylamino)indol-2-one | 6 g | ClC=1C=C2C(C(NC2=CC1)=O)(NC)C1=C(C=CC=C1)Cl | C15H12Cl2N2O
reactant | benzyl 4-chlorosulfonyl-3-methoxybenzoate | 6.66 g | ClS(=O)(=O)C1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)OC | C15H13ClO5S
product | Benzyl 4-[[5-chloro-3-(2-chlorophenyl)-2,3-dihydro-3-(methylamino)-2-oxoindol-1-yl]sulfonyl]-3-methoxybenzoate | 10.3 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C(=O)OCC2=CC=CC=C2)C=C1)OC)=O)(NC)C1=C(C=CC=C1)Cl | C30H24Cl2N2O6S
